US09085540B2
A mixture of 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide (300 mg), 2-methyl-4-(morpholin-4-yl)aniline (200 mg), diisopropylethylamine (330 μL), and N-methylpyrrolidone (2 mL) was reacted in a microwave reaction device at 180° C. for 2 hours. The reaction mixture was left to be cooled, and then 5 mL of water was added thereto. The precipitated solid was collected by filtration and purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:9-7:3) to obtain 6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (160 mg) as a brown solid.

reactant | 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 300 mg | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])CC)C(=O)N | C13H11ClN4O4
reactant | 2-methyl-4-(morpholin-4-yl)aniline | 200 mg | CC1=C(N)C=CC(=C1)N1CCOCC1 | C11H16N2O
reactant | diisopropylethylamine | 330 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 5 mL | O | H2O
product | 6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 160 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=C(C=C(C=C1)N1CCOCC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C24H26N6O5
